US07723399B2
Preparation of dicyclohexyl-thiocarbamic acid —O-(1,3-dioxo-1,3-dihydro-isoindol-2-yl) ester
This compound was prepared in analogy to example 8 starting from 24.94 g (0.096 mol) of dicyclohexyl-thiocarbamoyl chloride (prepared as described in (Chem. Ber., 101, (1968), 113) and N-hydroxyphthalimide. Yield 9.65 g of white crystals after recrystallization from hexane, mp. 148-150° C.

reactant | dicyclohexyl-thiocarbamoyl chloride | 0.096 mol, 24.94 g | C1(CCCCC1)N(C(=S)Cl)C1CCCCC1 | C13H22ClNS
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
product | dicyclohexyl-thiocarbamic acid —O-(1,3-dioxo-1,3-dihydro-isoindol-2-yl) ester | O=C1N(C(C2=CC=CC=C12)=O)OC(N(C1CCCCC1)C1CCCCC1)=S | C21H26N2O3S
